US05482966
Using an analogous procedure to that described in Example 7, 4'-[5-fluoro-3-(4-methoxytetrahydropyran-4-yl)phenylthio]-2'-hydroxyacetophenone was reacted with hydroxylamine hydrochloride to give (E)-4'-[5-fluoro-3-(4-methoxytetrahydropyran-4-yl)phenylthio]-2'-hydroxyacetophenone oxime in 77% yield, m.p. 140°-142° C.;

reactant | 4'-[5-fluoro-3-(4-methoxytetrahydropyran-4-yl)phenylthio]-2'-hydroxyacetophenone | FC=1C=C(C=C(C1)SC1=CC(=C(C=C1)C(C)=O)O)C1(CCOCC1)OC | C20H21FO4S
reactant | hydroxylamine hydrochloride | Cl.NO
product | (E)-4'-[5-fluoro-3-(4-methoxytetrahydropyran-4-yl)phenylthio]-2'-hydroxyacetophenone oxime | 77% yield | FC=1C=C(C=C(C1)SC1=CC(=C(C=C1)/C(/C)=N/O)O)C1(CCOCC1)OC | C20H22FNO4S
